US04001301
A mixture of 2.3 g. of 6-methoxy-2-naphthyl-α-naphthyl-α-methylacetic acid, 2.9 g. of cinchonidine, and 50 ml. of methanol is stirred for two hours; the mixture is then allowed to stand until crystallization is complete. The crystals are filtered off and washed with methanol. The crystals are recrystallized from methanol, filtered, washed, and dried. The pure crystals are added to 60 ml. of 0.2N hydrochloric acid. The resulting mixture is stirred for two hours and then extracted with diethyl ether. The extracts are combined, washed with water to neutrality, dried over sodium sulfate, and evaporated to yield one of the optical isomers of 6-methoxy-2-naphthyl-α-methylacetic acid. The filtrates from the above filtrations are acidified with aqueous dilute hydrochloric acid and the product is isolated by diethyl ether extractions to give the other optical isomer of 6-methoxy-2-naphthyl-α-methylacetic acid.

reactant | 6-methoxy-2-naphthyl-α-naphthyl-α-methylacetic acid | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)O)(C)C1=CC=CC2=CC=CC=C12 | C24H20O3
reactant | cinchonidine | C=C[C@H]1CN2CC[C@H]1C[C@H]2[C@@H](C=3C=CN=C4C3C=CC=C4)O | C19H22N2O
solvent | methanol | CO | CH4O
product | 6-methoxy-2-naphthyl-α-methylacetic acid | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C14H14O3
